US04362728
Sodium hydride (50% w/w dispersion in oil; 0.57 g.) was added to ethanol (10 ml.) portionwise. To the resulting solution was added 3-aminopropanethiol hydrochloride (0.75 g.) and the mixture stirred at room temperature. 2-[2-(2,2,2-Trifluoroethyl)guanidino-6-chloropyrazine (0.5 g.) was added in one portion and the mixture heated under reflux on the steam bath overnight. The mixture was cooled, evaporated, water (10 ml.) added and the mixture extracted with ethyl acetate. The extracts were dried over magnesium sulphate, filtered and evaporated to yield an oil, which was chromatographed eluting with methanol/methylene chloride/ammonia 10:40:1 v/v/v yield 2-[2-(2,2,2-trifluoroethyl)guanidino]-6-(3-aminopropylthio)pyrazine as a pale yellow solid (0.39 g.) which was used without further purification.

reactant | Sodium hydride | 0.57 g | [H-].[Na+]
reactant | 3-aminopropanethiol hydrochloride | 0.75 g | Cl.NCCCS
reactant | 2-(2,2,2-Trifluoroethyl)guanidino-6-chloropyrazine | 0.5 g | FC(CN=C(NC1=NC(=CN=C1)Cl)N)(F)F | C7H7ClF3N5
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-[2-(2,2,2-trifluoroethyl)guanidino]-6-(3-aminopropylthio)pyrazine | FC(CN=C(NC1=NC(=CN=C1)SCCCN)N)(F)F | C10H15F3N6S
